US04511735
Preparation of N-methyl-2-(methylsulfonyl)ethanesulfonamide
To a stirred mixture of 2-(methylsulfonyl)ethanesulfonyl chloride in 50 ml chloroform, 15.5 g (0.2 mole) 40% methylamine in water were added slowly. The reaction mixture was stirred one hour and then filtered. The filtrate was washed with water. The organic phase was separated and then stripped. Cold ether was added to the residue; the resulting mixture was stirred. Filtration of the ether mixture gave 11.0 g of the above-identified product as a white solid, mp. 116°-117° C.

reactant | 2-(methylsulfonyl)ethanesulfonyl chloride | CS(=O)(=O)CCS(=O)(=O)Cl | C3H7ClO4S2
reactant | methylamine | 0.2 mole, 15.5 g | CN | CH5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-methyl-2-(methylsulfonyl)ethanesulfonamide | 11.0 g | CNS(=O)(=O)CCS(=O)(=O)C | C4H11NO4S2
